US04032601
Diphenyl-1-(p-tolylsulfonylamino)butylphosphine oxide
A white solid (60.6 g, 71% yield) separates when a mixture of 0.2 mole each of phenyl diphenylphosphinite, n-butyraldehyde, and p-toluenesulfonamide in 125 g of chlorobenzene is warmed at 105° C. for 1 hr. Recrystallization three times from o-dichlorobenzene gives a white solid product: mp 254°-263°; 31P nmr (CF3CO2H)- 44.7 ppm.

reactant | phenyl diphenylphosphinite | 0.2 mole | C1(=CC=CC=C1)P(OC1=CC=CC=C1)C1=CC=CC=C1 | C18H15OP
reactant | n-butyraldehyde | C(CCC)=O | C4H8O
reactant | p-toluenesulfonamide | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
solvent | chlorobenzene | 125 g | ClC1=CC=CC=C1 | C6H5Cl
product | Diphenyl-1-(p-tolylsulfonylamino)butylphosphine oxide | C1(=CC=CC=C1)P(C(CCC)NS(=O)(=O)C1=CC=C(C=C1)C)(C1=CC=CC=C1)=O | C23H26NO3PS
